US09376433B2
To a suspension of 3-(4-bromo-phenyl)-isochromen-1-one (1.05 g, 3.50 mmol) in DMF (7 ml) is added aqueous ammonia (25% by weight, 7 ml) and the mixture is stirred at 80° C. for 3 days. The reaction mixture is diluted with water. The resulting precipitate is filtered off, washed with water and dried under vacuum to afford 3-(4-bromo-phenyl)-2H-isoquinolin-1-one as brown powder; HPLC/MS 1.96 min (A), [M+H] 300/302;

reactant | 3-(4-bromo-phenyl)-isochromen-1-one | 3.50 mmol, 1.05 g | BrC1=CC=C(C=C1)C=1OC(C2=CC=CC=C2C1)=O | C15H9BrO2
reactant | ammonia | 7 ml | N | H3N
solvent | DMF | 7 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 3-(4-bromo-phenyl)-2H-isoquinolin-1-one | BrC1=CC=C(C=C1)C=1NC(C2=CC=CC=C2C1)=O | C15H10BrNO
